US09428452B2
N-(4-ethylphenyl)-N-isobutyl-4-vinylbenzenesulfonamide
To a solution of 4-ethyl-N-isobutylaniline (400 mg, 2.256 mmol) in pyridine (5 mL) stirred in air at room temperature was added 4-vinylbenzene-1-sulfonyl chloride (760 mg, 3.75 mmol) in one charge. The reaction mixture was stirred at 20° C. for 30 minutes then stood for 16 hours. The solvent was evaporated in vacuo (Vaportec V10) to give the crude product, which was then purified by silica (Si) chromatography (0-50% ethyl acetate-cyclohexane gradient). The appropriate fractions were combined and evaporated in vacuo to give the required product, 940 mg, as a colourless gum. LCMS [LCMS1] Rt 1.44 min, m/z (ES+) 344 (M+H).

reactant | 4-ethyl-N-isobutylaniline | 2.256 mmol, 400 mg | C(C)C1=CC=C(NCC(C)C)C=C1 | C12H19N
reactant | 4-vinylbenzene-1-sulfonyl chloride | 3.75 mmol, 760 mg | C(=C)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H7ClO2S
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | N-(4-ethylphenyl)-N-isobutyl-4-vinylbenzenesulfonamide | C(C)C1=CC=C(C=C1)N(S(=O)(=O)C1=CC=C(C=C1)C=C)CC(C)C | C20H25NO2S
